US06544985B2
(5-Azetidin-1-yl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-azetidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J17) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K4) according to the general procedure M. Obtained as a light yellow foam (218 mg).

reactant | (2-amino-5-azetidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)C(F)(F)F)N)=O | C15H20F3N3O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (5-Azetidin-1-yl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C28H29F3N4O5
